Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
fatigue, increased work of breathing

 
Major Surgical or Invasive Procedure:
bronchoscopy, central line, arterial line
 
History of Present Illness:
___ with hx of Primary biliary cirrhosis (PBC) now being 
directLY admitted to ___ 10 from ___ over concern for HRS. 
 
She was admitted to ___ on ___ for SOB, a fall, and 
generalized weakness. Per report pt fell while trying to get 
into her car, but fell and couldnt get up for ~2.5 hrs before 
someone helped her.  
She was initially hypothermic to 89.6F with bradycardia and BP 
186/100 but then became hypotensive requiring multiple liters of 
fluid. Per report, pt's sbps in ___ on the floor. Was also 
encephalopathic per ___ report. Nadolol, spironolactone 
were dc-ed. Initial ammonia 140. Ucx consistent with infection 
so started on ceftriaxone. Initially Cr okay but then developed 
acute renal failure. Renal there saw and though ATN. Got ECHO 
there with small PFO, moderately dilated right heart, 
moderate-severe TR, mild-moderate MR. ___ of CXR showing 
edema vs infection, BiPAP was tried but poorly tolerated. Unable 
to tolerate chest CT due to anxiety. Had to be placed on oxygen 
as desatting to 75% on RA. Started on IV steroids. Later renal 
though maybe HRS so started on octreotide and Cr has trended 
down from 3.8 -> 1.8. GI saw and started her on Rifaxamin and 
lactulose restarted after hypotension gone. Her coags and LFTs 
trended upward during admission (INR 1.9 -> 2.2). No signs of 
bleeding. GI at ___ recommended transfer to ___ for 
worsening liver failure with poor respiratory status.  
Per report, the pt was initially found to have pulmonary edema 
so given diuretics. Also question of PNA so started on ABX. Cr 
worsening so concern for HRS. Mild splenomegaly and small 
ascites on ultrasound, not tapped. Since admission kidneys have 
improved (cr 3.5 --> 1.7) but ___ still concerned for HRS 
and want to transfer here for this and because patient still not 
improving. Labs at transfer Tbili 5.5, INR 2.2, Alb 2.4. ALT 56, 
AST 67, Alk p ___. WBC 14,000.  

 
Past Medical History:
- PBC  
- RHF  
- cocaine use years ago (___)  
- cholecystectomy years ago  

 
Social History:
___
Family History:
There is no family history of liver disease. Her father did have 
 
coronary artery disease, and underwent bypass surgery. He is  
also borderline diabetic. Her mother had a history of irregular  

heartbeat. 

 
Physical Exam:
Admission Exam:
GENERAL: Sedated. Jaundiced  
HEENT: Sclera icteric. MMM.  
CARDIAC: RRR with no excess sounds appreciated  
LUNGS: Coarse Breath sounds bilaterally..  
ABDOMEN: Distended but Soft, non-tender to palpation. Dullness 
to percussion over dependent areas but tympanic anteriorly. No 
HSM or tenderness appreciated. No fliud thrill.  
EXTREMITIES: ___ edema b/l up to thighs. Warm and well 
perfused, no clubbing or cyanosis.  
NEUROLOGY: asterixis, AOX1. Grossly intact.  
.
Discharge Exam:

 
Pertinent Results:
Admission Labs:
___ 09:10PM BLOOD WBC-10.1 RBC-3.75* Hgb-11.8* Hct-38.8 
MCV-103*# MCH-31.6 MCHC-30.6*# RDW-19.1* Plt Ct-54*#
___ 09:10PM BLOOD ___ PTT-44.4* ___
___ 09:10PM BLOOD Glucose-122* UreaN-44* Creat-1.4* Na-146* 
K-3.9 Cl-119* HCO3-21* AnGap-10
___ 09:10PM BLOOD ALT-52* AST-73* LD(LDH)-412* AlkPhos-371* 
TotBili-6.1*
___ 09:10PM BLOOD Albumin-2.8* Calcium-8.5 Phos-3.8 Mg-2.6
___ 09:39PM BLOOD ___ pO2-82* pCO2-46* pH-7.28* 
calTCO2-23 Base XS--4
___ 09:39PM BLOOD Lactate-2.7*

Discharge labs:
___ 04:12AM BLOOD WBC-16.4* RBC-2.44* Hgb-7.8* Hct-25.8* 
MCV-106* MCH-31.8 MCHC-30.1* RDW-24.0* Plt Ct-73*
___ 04:01AM BLOOD Neuts-88.9* Lymphs-6.6* Monos-3.7 Eos-0.6 
Baso-0.2
___ 04:12AM BLOOD ___ PTT-76.7* ___
___ 04:12AM BLOOD Glucose-114* UreaN-60* Creat-2.0* Na-147* 
K-3.9 Cl-106 HCO3-27 AnGap-18
___ 04:12AM BLOOD ALT-40 AST-93* AlkPhos-471* TotBili-10.7*
___ 04:12AM BLOOD Calcium-8.1* Phos-3.5 Mg-2.1
___ 08:11PM BLOOD Type-ART Temp-37.2 PEEP-14 FiO2-60 
pO2-104 pCO2-57* pH-7.35 calTCO2-33* Base XS-3 Intubat-INTUBATED
___ 08:11PM BLOOD Lactate-2.7*

Pertinent labs:

___ 02:47PM BLOOD Lipase-47
___ 03:14PM BLOOD CK-MB-7 cTropnT-<0.01 proBNP-1465*
___ 08:07AM BLOOD TSH-0.44
___ 07:13PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE HAV Ab-NEGATIVE
___ 11:00AM BLOOD Smooth-NEGATIVE
___ 02:39AM BLOOD ANCA-NEGATIVE B
___ 10:56AM BLOOD AMA-POSITIVE *
___ 02:39AM BLOOD dsDNA-NEGATIVE
___ 10:56AM BLOOD ___ * Titer-GREATER TH
___ 09:05AM BLOOD IgG-700 IgM-108
___ 05:34AM BLOOD C3-34* C4-8*
___ 10:30AM BLOOD HIV Ab-NEGATIVE

=====================
 PERTINENT MICRO:
=====================
___ 11:50 am BRONCHOALVEOLAR LAVAGE

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___:    NO GROWTH, <1000 
CFU/ml. 

   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii).. 

   FUNGAL CULTURE (Preliminary): 
      YEAST. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 


   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary): 
      No Cytomegalovirus (CMV) isolated. 

   CYTOMEGALOVIRUS EARLY ANTIGEN TEST (SHELL VIAL METHOD) (Final 
___: 
      Negative for Cytomegalovirus early antigen by 
immunofluorescence. 
      Refer to culture results for further information. 

=============
IMAGING
=============
___ ECHO
The left atrium is mildly dilated. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). The right ventricular cavity is dilated with 
focal hypokinesis of the apical free wall. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Moderate [2+] tricuspid regurgitation is seen. 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion.

IMPRESSION: Normal regional left ventricular systolic function. 
Mildly dilated right ventricle with focal apical hypokinesis. 
Moderate tricuspid regurgitation. Mild pulmonary artery systolic 
hypertension.  

CT torso ___
IMPRESSION:
1.  Significant diffuse bilateral, multilobar, airspace disease. 
 Differential considerations include noncardiogenic edema, 
infection, ARDS or pulmonary hemorrhage.
 
2.  Sequela of underlying hepatocellular disease, splenomegaly 
with
mild-to-moderate ascites.
 
3.  Third spacing in the subcutaneous soft tissues of the trunk 
and pelvis.
 
4.  Limited evaluation of the uterus due to large body habitus.  
This could befurther evaluated with pelvic ultrasound, if 
clinically indicated.
 
5.  Nonobstructing stones in both kidneys. No obstructive 
uropathy.

___ Abd US
IMPRESSION:
1. Patent portal vasculature, with appropriate directional flow.
 
2. Cirrhotic liver with splenomegaly and large volume ascites 
consistent with portal hypertension.
 
3. Right pleural effusion, as seen on CT from ___.

 
Brief Hospital Course:
___ year old lady with probable autoimmune hepatitis vs. PBC with 
cirrhsosis initially admitted to ___ s/p fall with 
hypothermia, hypoxemia and acute renal failure. She was 
transferred to ___ for further care, found to have likely 
pneumonia, ARDS, volume overload, ___. Ultimately transitioned 
to CMO and passed away.

# Hypoxic Respiratory Failure. CXR with evidence of interstitial 
markings consistent with pulmonary edema vs ARDS. TTE  at OSH 
with evidence of RV dysfunction. Physical exam with evidence of 
massive hypervolemia and at this time hypothesize respiratory 
compromise is largely due to pulmonary edema.  She was started 
Vanco/Zosyn/Levofloxacin for empiric coverage of HCAP as well as 
nebulizers.  She was initially admitted to the floor for 
diuresis however triggered for desat to 70% requiring NRB mask 
and was then transferred to the MICU.  She developed worsening 
respiratory distress after arrival to MICU and was electively 
intubated on ___.  She was started on high dose lasix gtt as 
well as diuril for diuresis with good UOP.  She underwent 
bronchoscopy which showed no alveolar hemorrhage, minimal 
secretions.  BAL specimens showed many neutrophils but no 
organisms, cultures were negative.  Repeat TTE in house showed 
normal LVEF=60%, moderate TR, mildly dilated RV with apical 
hypokinesis and mild PA hypertension.  Patient had a CT scan of 
the chest to further evaluate which showed most likely primary 
pulmonary process, ARDS vs mulitfocal pneumonia.  She self 
extubated during her MICU course and initially did well on 
supplemental oxygen but was believed to have several aspiration 
events leading to increasing hypoxia, and this in combination 
with her altered mental status led to reintubation. Patient did 
not show improvement with aggressive treatment, prognosis was 
discussed with family members and health care proxy, her close 
friend ___, and patient was transitioned measures only, and 
passed away peacefully with family members at bedside.

#Altered mental status: most likely from hepatic encephalopathy. 
Saw minimal improvement with lactulose, but ultimately was 
refractory to treatment. Required repeat intubation for hypoxia 
and airway protection. 

# Acute on Chronic renal failure. Baseline creatinine around 1.4 
per PCP. During ___ hospitalization patient treated at 
OSH with creatinine peaking at 3.8 and had been receiving 
octreotide and midodrine for concern for HRS.  Creatinine was 
downtrending at OSH however patient transferred to ___ for 
concern for HRS and admission to liver service.  She was given 
albumin for concern for intravascular volume depletion.  In 
house creatinine 1.4-1.5 with good UOP with aggressive diuresis. 
Nephrology consulted and felt HRS highly unlikely so octreotide 
and midodrine were discontinued.  ___ likely due to poor 
perfusion in setting of massive third-spacing of fluid and renal 
vascular congestion. 

# Hypernatremia. Free water deficit: 4.2L on presentation. 
Patient was given D5W while being diuresed to correct, free 
water flushes when tube feeds were started. 

# Cirrhosis. Patient with history of PBC; hepatology concerned 
for potential autoimmune hepatitis as primary etiology. RUQ US 
with evidence of extensive cirrhosis, labs c/w liver failure, 
MELD score: 26. Child ___ Class 3.  Liver was consulted who 
recommended starting prednisone 40mg qday for possible 
autoimmune component but this was discontinued after several 
days without improvement. 

# Coagulopathy.  Patient with elevated coags INR 3.0 on arrival. 
 Peripheral smear and fibrinogen normal unlikely DIC.  Most 
likely due to chronic cirrhosis.  She was given 1 unit platelets 
and 2 units FFP on ___. Improved with Vitamin K but not fully 
corrected.

# Vaginal bleeding.  Patient noted to have oozing of bright red 
blood from vaginal canal in setting of coagulopathy (INR 3.0).  
During hospitalization vaginal ultrasound showed normal uterus 
and endometrium, but demonstrated a conglomeration of blood 
vessels in the vaginal wall, however the OB/GYN team repeated 
the pelvic exam and saw only blood from the cervical os, 
theroized hormonal build up due to liver failure causing 
endometerial proliferation and shedding.

# History of asthma. Per patient as an outpatient required no 
inhalers or aggressive treatment. No history of tobacco use.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB or wheeze 
2. Furosemide 80 mg PO DAILY 
3. Magnesium Oxide 400 mg PO DAILY 
4. Potassium Chloride 40 mEq PO DAILY 
5. Spironolactone 50 mg PO DAILY 
6. Ursodiol 500 mg PO DAILY 
7. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
expired
 
Discharge Condition:
expired
 
Discharge Instructions:
expired
 
Followup Instructions:
___